US07151105B2
Step 2: [1,2,4]Triazolo[1,5-a]pyrimidine-2-carbaldehyde
The title compound was prepared analogously to step 8 of example A(1) where [1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethanol was substituted in place of 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-methanol.

reactant | [1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethanol | N1=C(N=C2N1C=CC=N2)CO | C6H6N4O
solvent | methanol | CO | CH4O
product | [1,2,4]Triazolo[1,5-a]pyrimidine-2-carbaldehyde | N1=C(N=C2N1C=CC=N2)C=O | C6H4N4O
